US07858784B2
Synthesis of ethyl 3-(4-(trifluoromethyl)phenylamino)benzoate (FIG. 9, Table 5, Entry 6)
Following general procedure A, a mixture of ethyl 3-(methylsulfonyloxy)benzoate (122 mg, 0.5 mmol), 4-(trifluoromethyl)aniline (75 μL, 0.6 mmol), K2CO3 (97 mg, 0.7 mmol), 10 (4 mg, 1 mol %), 1 (2.5 mg, 1 mol %), and t-BuOH (6 mL) was heated to 110° C. for 16 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 0-30% EtOAc/hexanes) to provide the title compound as a white solid (144 mg, 93%), mp 106-108° C. 1H NMR (300 MHz, CDCl3) δ: 7.81 (s, 1H), 7.71 (d, J=7.0 Hz, 1H), 7.49 (d, J=8.5 Hz, 2H), 7.36 (m, 2H), 7.07 (d, J=8.5 Hz, 2H), 6.13 (s 1H), 4.38 (q, J=7.0 Hz, 2H), 1.39 (t, J=7.0 Hz, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 166.7, 146.3, 141.8, 132.1, 130.1, 129.8, 127.1, 127.0, 127.0, 126.9, 126.6, 123.8, 123.8, 123.0, 122.6, 122.2, 120.6, 116.0, 61.5, 14.5 ppm. IR (neat, cm−1): 3358, 1701, 1620, 1543, 1333, 1158, 1108, 1070, 751. Anal. Calcd. for C16H14F3O2N: C, 62.13; H, 4.56. Found: C, 61.97; H, 4.46.

reactant | ethyl 3-(methylsulfonyloxy)benzoate | 0.5 mmol, 122 mg | CS(=O)(=O)OC=1C=C(C(=O)OCC)C=CC1 | C10H12O5S
reactant | 4-(trifluoromethyl)aniline | 0.6 mmol, 75 μL | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | K2CO3 | 0.7 mmol, 97 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | t-BuOH | 6 mL | CC(C)(C)O | C4H10O
product | ethyl 3-(4-(trifluoromethyl)phenylamino)benzoate | 144 mg, 93% | FC(C1=CC=C(C=C1)NC=1C=C(C(=O)OCC)C=CC1)(F)F | C16H14F3NO2
